US05185370
3-(4-Pyridylmethylene)-2,4-pentanedione hydrochloride
A solution containing 1.1 g of pyridine-4-carboxaldehyde and 1.0 g of 2,4-pentanedione in 10 ml of N,N-dimethylformamide was saturated with hydrogen chloride gas at 20° C. The solution was stirred for 1 h at 20° C. and then for 2 h at 80° C. The solvent was evaporated in vacuo and the residue was crystallized from ethanol. Yield 0.17 g, mp 175°-186° C.

reactant | pyridine-4-carboxaldehyde | 1.1 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | 2,4-pentanedione | 1.0 g | CC(CC(C)=O)=O | C5H8O2
reactant | hydrogen chloride | Cl | ClH
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-(4-Pyridylmethylene)-2,4-pentanedione hydrochloride | Cl.N1=CC=C(C=C1)C=C(C(C)=O)C(C)=O | InChI=1S/C11H11NO2.ClH/c1-8(13)11(9(2)14)7-10-3-5-12-6-4-10;/h3-7H,1-2H3;1H
